US09340556B2
To a solution of (S)-4-tert-butyl 1-(4-methoxybenzyl) 2-((1,3-dioxoisoindolin-2-yl)oxy)succinate (68 g, 149 mmol) in Dichloromethane (DCM) (500 mL) was added methylhydrazine (7.86 mL, 149 mmol) dropwise at 0° C. over 30 min. The mixture was allowed to warm to rt and stirred at rt for 1 h. LCMS indicated completion of the reaction. The insoluble material was removed by filtration and the filtrate was concentrated and diluted with toluene. The resulting precipitate was removed by filtration again and the filtrate was concentrated to afford crude (S)-4-tert-butyl 1-(4-methoxybenzyl) 2-(aminooxy)succinate (47 g, 144 mmol, 97% yield) as a pale yellow oil. The product was used in next step without further purification. LCMS: (M+H)+: 326.1

reactant | (S)-4-tert-butyl 1-(4-methoxybenzyl) 2-((1,3-dioxoisoindolin-2-yl)oxy)succinate | 149 mmol, 68 g | O=C1N(C(C2=CC=CC=C12)=O)O[C@H](C(=O)OCC1=CC=C(C=C1)OC)CC(=O)OC(C)(C)C | C24H25NO8
reactant | methylhydrazine | 149 mmol, 7.86 mL | CNN | CH6N2
solvent | Dichloromethane | 500 mL | ClCCl | CH2Cl2
product | (S)-4-tert-butyl 1-(4-methoxybenzyl) 2-(aminooxy)succinate | 144 mmol, 47 g, 97% yield | NO[C@H](C(=O)OCC1=CC=C(C=C1)OC)CC(=O)OC(C)(C)C | C16H23NO6
